data/cycloadd/train.csv
Unnamed: 0,rxn_id,AAM,solvent,temp,G_act,G_r
152,169,[CH3:1][NH:2][C:3](=[O:4])[C:5]#[C:6][C:7]#[N:8].[CH3:9][C:10](=[O:11])[c:12]1[nH+:13][c-:14]([CH3:15])[c:16](=[O:17])[o:18]1>>[CH3:1][NH:2][C:3](=[O:4])[C:5]1=[C:6]([C:7]#[N:8])[C:12]2([C:10]([CH3:9])=[O:11])[NH:13][C:14]1([CH3:15])[C:16](=[O:17])[O:18]2,water,298.15,16.009688917977538,-17.813873883613144
4936,5622,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][CH-:16][NH+:17]=[C:18]([C:19](=[O:20])[NH:21][CH3:22])[C:23](=[O:24])[O:25][CH3:26]>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[CH:16]([CH3:15])[NH:17][C:18]2([C:19](=[O:20])[NH:21][CH3:22])[C:23](=[O:24])[O:25][CH3:26],water,298.15,20.238790374650144,-2.8695685280016967
4034,4619,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[c:15]1[nH+:16][c-:17]([CH3:18])[c:19](=[O:20])[o:21]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:17]1([CH3:18])[NH:16][C:15]2([C:13]([O:12][CH3:11])=[O:14])[O:21][C:19]1=[O:20],water,298.15,27.47390243578213,8.276811504093471
5208,5909,[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C:11]([CH3:12])=[C:13]1[CH3:14].[CH3:15][C:16](=[O:17])[C-:18]([N+:19]#[C:20][c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1)[c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1>>[C:1]1(=[O:2])[C:3]([O:4][CH3:5])=[C:6]([O:7][CH3:8])[C:9](=[O:10])[C@@:11]2([CH3:12])[C@:13]1([CH3:14])[C:18]([C:16]([CH3:15])=[O:17])([c:27]1[cH:28][cH:29][cH:30][cH:31][cH:32]1)[N:19]=[C:20]2[c:21]1[cH:22][cH:23][cH:24][cH:25][cH:26]1,water,298.15,10.581371032357785,-19.530312017162856
5060,5748,[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[CH:6]=[C:7]1[C:8]([NH2:9])=[O:10].[CH3:11][O:12][C:13](=[O:14])[C-:15]([C:16]([CH3:17])=[O:18])[N+:19]([CH3:20])=[C:21]([CH3:22])[c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1>>[CH2:1]1[CH:2]=[CH:3][N:4]([CH3:5])[C@H:6]2[C@:7]1([C:8]([NH2:9])=[O:10])[C:21]([CH3:22])([c:23]1[cH:24][cH:25][cH:26][cH:27][cH:28]1)[N:19]([CH3:20])[C:15]2([C:13]([O:12][CH3:11])=[O:14])[C:16]([CH3:17])=[O:18],water,298.15,42.81697055124453,9.97783053375456
2104,2332,[CH3:15][NH:16][C:17](=[O:18])[c:19]1[o:20][c:21](=[O:22])[c-:23]([C:24]#[N:25])[n+:26]1[CH3:27].[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]#[C:7][C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1>>[CH3:1][C:2](=[O:3])[C:4]1([Br:5])[C:6]2=[C:7]([C:8]([CH3:9])([CH3:10])[CH2:11][CH2:12][CH2:13][CH2:14]1)[C:19]1([C:17]([NH:16][CH3:15])=[O:18])[O:20][C:21](=[O:22])[C:23]2([C:24]#[N:25])[N:26]1[CH3:27],water,298.15,28.995107969862428,0.281143652884016
737,799,[CH3:12][NH:13][C:14](=[O:15])[C:16]([C:17]#[N:18])=[NH+:19][N-:20][C:21]([CH3:22])=[O:23].[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]=[CH:9][CH:10]1[O:11]2>>[CH3:1][O:2][C:3](=[O:4])[C:5]1=[CH:6][CH:7]2[CH:8]3[CH:9]([CH:10]1[O:11]2)[N:20]([C:21]([CH3:22])=[O:23])[NH:19][C:16]3([C:14]([NH:13][CH3:12])=[O:15])[C:17]#[N:18],water,298.15,20.44215045879128,-33.8485657374889
848,918,[CH3:9][O:10][C:11](=[O:12])[C-:13]([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N+:20]([CH3:21])=[CH:22][C:23]#[N:24].[F:1][C:2]1=[CH:3][CH:4]2[CH:5]=[CH:6][CH:7]1[O:8]2>>[F:1][C:2]12[CH:3]([CH:4]3[CH:5]=[CH:6][CH:7]1[O:8]3)[C:13]([C:11]([O:10][CH3:9])=[O:12])([c:14]1[cH:15][cH:16][cH:17][cH:18][cH:19]1)[N:20]([CH3:21])[CH:22]2[C:23]#[N:24],water,298.15,18.471553458687016,-47.40774895140274
583,639,[CH3:1][O:2]/[CH:3]=[CH:4]/[O:5][CH3:6].[CH3:7][NH:8][C:9](=[O:10])[C-:11]([C:12]#[N:13])[N+:14]([CH3:15])=[CH:16][c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1>>[CH3:1][O:2][C@H:3]1[C@H:4]([O:5][CH3:6])[C:11]([C:9]([NH:8][CH3:7])=[O:10])([C:12]#[N:13])[N:14]([CH3:15])[CH:16]1[c:17]1[cH:18][cH:19][cH:20][cH:21][cH:22]1,water,298.15,23.13537471505869,-21.9921366039334
3076,3457,[CH3:1]/[CH:2]=[CH:3]/[CH3:4].[CH3:5][NH:6][C:7](=[O:8])[N-:9][N+:10]([CH3:11])=[C:12]([CH3:13])[CH3:14]>>[CH3:1][C@H:2]1[C@H:3]([CH3:4])[N:9]([C:7]([NH:6][CH3:5])=[O:8])[N:10]([CH3:11])[C:12]1([CH3:13])[CH3:14],water,298.15,33.140794753834825,-15.647966827959872
3490,3974,[CH3:10][C:11](=[O:12])[CH:13]=[N+:14]([CH3:15])[CH-:16][C:17]#[N:18].[CH3:1][C:2]([CH3:3])=[CH:4]/[CH:5]=[CH:6]/[C:7]([CH3:8])=[CH2:9]>>[CH3:1][C:2]([CH3:3])=[CH:4][C@H:5]1[C@H:6]([C:7]([CH3:8])=[CH2:9])[CH:16]([C:17]#[N:18])[N:14]([CH3:15])[CH:13]1[C:11]([CH3:10])=[O:12],water,298.15,23.085854303170947,-14.872419743684356
4224,4832,[CH3:9][C:10](=[O:11])[C-:12]([C:13]#[N:14])[NH+:15]=[C:16]([CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1.[O-:1][C:2](=[O:3])/[CH:4]=[CH:5]/[C:6](=[O:7])[O-:8]>>[O-:1][C:2](=[O:3])[C@H:4]1[C@H:5]([C:6](=[O:7])[O-:8])[C:12]([C:10]([CH3:9])=[O:11])([C:13]#[N:14])[NH:15][C:16]1([CH3:17])[c:18]1[cH:19][cH:20][cH:21][cH:22][cH:23]1,water,298.15,32.9704713320227,5.139048777103992
